US08242153B2
To a solution of trifluoroacetic acid (0.85 ml) in water (18 ml) was added dropwise a solution of (S)-4-[(S)-2-(4-chloro-phenoxy)-propyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (1.34 g) in acetonitrile (3 ml). The mixture was heated for 4 h at 80° C. with mechanical shaking. The mixture was then cooled to room temperature and diluted with ethyl acetate. The mixture was washed with aq. sodium bicarbonate solution and then the organic phase was separated, dried over sodium sulphate and concentrated in vacuo to give (2S,4S)-2-amino-4-(4-chloro-phenoxy)-pentan-1-ol (0.76 g, 92%) as an off-white solid. MS (ISP): 232.1 ([{37Cl}M+H]), 230.2 ([{35Cl}M+H]+).

reactant | trifluoroacetic acid | 0.85 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | (S)-4-[(S)-2-(4-chloro-phenoxy)-propyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 1.34 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1C[C@H](C)OC1=CC=C(C=C1)Cl)(C)C | C19H28ClNO4
solvent | water | 18 ml | O | H2O
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,4S)-2-amino-4-(4-chloro-phenoxy)-pentan-1-ol | 0.76 g, 92% | N[C@H](CO)C[C@H](C)OC1=CC=C(C=C1)Cl | C11H16ClNO2
